US06933387B2
a) (4R,10aR)-4,8-Dimethyl-7-trifluoromethyl-3,4,10,10a-tetrahydro-1H-pyrazino[1,2-a]indole-2-carboxylic acid tert-butyl ester
(4R,10aR)-8-Bromo-4-methyl-7-trifluoromethyl-3,4,10,10a-tetrahydro-1H-pyrazino[1,2-a]indole-2-carboxylic acid tert-butyl ester (0.38 g, 0.8 mmol) and methyl iodide (0.25 g, 1.6 mmol) were dissolved in tert-butylmethylether (3 mL). A solution of methyl lithium in diethylether (0.66 mL, 1.6 M) was added with cooling (0° C.) and stirring. The mixture was stiired for ½ h at 0° C., water (25 mL) was added and the mixture was extracted with diethylether (2×20 mL). Organic phases were pooled, dried with MgSO4 and the solvent was removed in vacuo. Chromatography on silica gel (n-hexane/diethylether 4:1) yielded the title product as light yellow oil (0.20 g, 63%).

reactant | (4R,10aR)-8-Bromo-4-methyl-7-trifluoromethyl-3,4,10,10a-tetrahydro-1H-pyrazino[1,2-a]indole-2-carboxylic acid tert-butyl ester | 0.8 mmol, 0.38 g | C(C)(C)(C)OC(=O)N1C[C@@H]2N(C=3C=C(C(=CC3C2)Br)C(F)(F)F)[C@@H](C1)C | C18H22BrF3N2O2
reactant | methyl iodide | 1.6 mmol, 0.25 g | CI | CH3I
reactant | methyl lithium | C[Li]
reactant | water | 25 mL | O | H2O
solvent | tert-butylmethylether | 3 mL | C(C)(C)(C)OC | C5H12O
solvent | diethylether | 1.6 M, 0.66 mL | C(C)OCC | C4H10O
product | (4R,10aR)-4,8-Dimethyl-7-trifluoromethyl-3,4,10,10a-tetrahydro-1H-pyrazino[1,2-a]indole-2-carboxylic acid tert-butyl ester | 0.20 g, 63% | C(C)(C)(C)OC(=O)N1C[C@@H]2N(C=3C=C(C(=CC3C2)C)C(F)(F)F)[C@@H](C1)C | C19H25F3N2O2
